US04319913
The procedure of Example 36 was employed utilizing N-methyl-N-benzylamine and phenyl phosphonic dichloride. The reaction of the dilithio compound and the phenyl phosphonic dichloride was conducted at -60° C. The residue produced as a result of the distillation process was slurried in ether to yield 1-phenyl-2-methyl-2,3-dihydro-1H-2,1-benzazaphosphole-1-oxide as a white solid. A second crop was obtained and the combined product yield was recrystallized from carbon tetrachloride and petroleum ether to yield 1-phenyl-2-methyl-2,3-dihydro-1H-2,1-benzazaphosphole-1-oxide (2.25 g, 15% yield) having a melting point of 129°-130° C. and the following analysis:

reactant | N-methyl-N-benzylamine | CNCC1=CC=CC=C1 | C8H11N
reactant | phenyl phosphonic dichloride | C1(=CC=CC=C1)P(=O)(Cl)Cl | C6H5Cl2OP
solvent | ether | CCOCC | C4H10O
product | 1-phenyl-2-methyl-2,3-dihydro-1H-2,1-benzazaphosphole-1-oxide | C1(=CC=CC=C1)P1(N(CC2=C1C=CC=C2)C)=O | C14H14NOP
